US06384041B1
To a suspension of 64 mg (2.66 mmol) of sodium hydride in 5 mL of benzene was added 200 mg (2.22 mmol) of methyl glycolate and a solution of 350 mg (0.89 mmol) of 2-(methylthio)-4-chloro-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine in 2.5 ml of benzene then the mixture heated to 60° C. The reaction was monitored for conversion to product by TLC (silica, methylene chloride). Additional sodium hydride (96 mg) and methyl glycolate (360 mg) were added in portions over 4 days. The reaction was cooled to ambient temperature and partitioned by the addition of 15 mL of 2 M sodium hydrogen sulfate and 15 mL of ethyl acetate. The aqueous phase was extracted twice with 7 mL portions of ethyl acetate. The combined organic phases were dried with sodium sulfate and concentrated. The product was purified by flash chromatography (53 g silica, hexanes-ethyl acetate gradient 100:0 to 85:15) to provide 187 mg (47%) of [[2-(methylthio)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (300 MHz, CDCl3) δ1.10 (t, 3H), 2.16 (q, 2H), 2.52 (s, 3H), 3.80 (s, 3H), 5.03 (s, 2H), 5.32 (s, 2H), 6.25 (s, 1H), 6.62 (d, 1H), 7.1-7.6 (m, 8H)

reactant | sodium hydride | 2.66 mmol, 64 mg | [H-].[Na+]
reactant | methyl glycolate | 2.22 mmol, 200 mg | C(CO)(=O)OC | C3H6O3
reactant | 2-(methylthio)-4-chloro-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.89 mmol, 350 mg | CSC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)Cl | C22H20ClN3S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | methyl glycolate | 360 mg | C(CO)(=O)OC | C3H6O3
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
product | [[2-(methylthio)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 187 mg, 47% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)=O | C25H25N3O3S
